US07759337B2
Step A: -(Methylsulfonyl)piperazine
Benzyl 1-piperazinecarboxylate (2.03 g, 9.22 mmol) was dissolved in pyridine (23.0 mL, 9.22 mmol) and cooled to 0° C. before methanesulfonyl chloride (2.85 mL, 36.9 mmol) was added. The reaction mixture was stirred at 0° C. for 30 minutes and warmed to RT for 2 h. The reaction mixture was diluted with 75 mL of ethyl acetate, added to a separation funnel, partitioned with 3 N HCl (aqueous), washed 3× with 50 mL of 3 N HCl (aqueous), and separated, before the aqueous layer was extracted 3× with chloroform/isopropanol, then dried over sodium sulfate, and concentrated in vacuo to give the title compound. Benzyl 4-(methylsulfonyl)piperazine-1-carboxylate (2.80 g, 9.4 mmol) was dissolved in ethanol (0.43 g, 9.4 mmol) before palladium, 10 wt. % on activated carbon (2.0 g) was added and a hydrogen balloon attached. The reaction mixture was stirred at RT for 2 h before it was filtered through a pad of Celite®, washed with methanol, and concentrated in vacuo to give the title compound. MS (ES+): 165 (M+H)+.

reactant | Benzyl 4-(methylsulfonyl)piperazine-1-carboxylate | 9.4 mmol, 2.80 g | CS(=O)(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O4S
reactant | ethanol | 9.4 mmol, 0.43 g | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
solvent | palladium | [Pd] | Pd
product | (Methylsulfonyl)piperazine | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
